US08633175B2
A mixture of 4-(3-bromophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one (250 mg, 1.04 mmol) and NaH (50 mg of a 60% dispersion in mineral oil, 1.25 mmol) in DMF (3 mL) was stirred at room temperature for 30 min. To the solution was added 1,1′,1″-(chloromethanetriyl)tribenzene (305 mg, 1.09 mmol) and the mixture stirred at room temperature for 4 hr. The reaction mixture was diluted with EtOAc, washed with H2O and brine, dried over Na2SO4 then concentrated in vacu. The residue was purified by silica gel chromatography (EtOAc/Hexanes) to give 4-(3-bromophenyl)-2-(triphenylmethyl)-2,4-dihydro-3H-1,2,4-triazol-3-one as a pale yellow foam. 1H NMR (400 MHz, DMSO-d6) δ 7.22-7.31 (m, 15H), 7.40-7.42 (m, 1H), 7.51 (d, J=7.8 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H), 7.90 (s, 1H), 8.60 (s, 1H).

reactant | 4-(3-bromophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.04 mmol, 250 mg | BrC=1C=C(C=CC1)N1C(NN=C1)=O | C8H6BrN3O
reactant | NaH | [H-].[Na+]
reactant | 1,1′,1″-(chloromethanetriyl)tribenzene | 1.09 mmol, 305 mg | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-bromophenyl)-2-(triphenylmethyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | BrC=1C=C(C=CC1)N1C(N(N=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H20BrN3O
